US05948820
(2) 2-Acetamido-4-(4-benzyloxyphenyl)butyl acetate
To a solution of 2-acetamido-4-(4-benzyloxyphenyl)butanol (9.48 g) in pyridine (100 ml), acetic anhydride (22.2 ml) was added and the mixture was stirred at room temperature for 5 hours. Then, the solution was poured into water and extracted with ethyl acetate. The extract was washed with a dilute hydrochloric acid, a dilute aqueous sodium hydrogencarbonate solution and a saturated brine, dried over magnesium sulfate and the solvent was distilled away under reduced pressure. The residue obtained was crystallized from ethyl acetate-hexane to give the subject compound (8.32 g).

reactant | 2-acetamido-4-(4-benzyloxyphenyl)butanol | 9.48 g | C(C)(=O)NC(CO)CCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C19H23NO3
reactant | water | O | H2O
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 22.2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetamido-4-(4-benzyloxyphenyl)butyl acetate | 8.32 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C)=O | C21H25NO4
